US06156752
A. 4-(N-Boc-amino)-1-cyclohexanol
To a stirred solution of 4-aminocyclohexan-1-ol (5.00 g, 43.4 mmol) in sat. aq. NaHCO3 (40 ml) was added (Boc)2O (9.47 g, 43.4 mmol) in CH3CN (20 ml) at ice-bath cooling. The reaction mixture was stirred at room temperature for 24 h. Diluted with water (100 ml), the mixture was extracted with AcOEt (100 ml×4). The combined extracts were washed with brine, dried and concentrated in vacuo to afford a white crystalline solid (8.46 g, 91% yield).

reactant | 4-aminocyclohexan-1-ol | 43.4 mmol, 5.00 g | NC1CCC(CC1)O | C6H13NO
reactant | (Boc)2O | 43.4 mmol, 9.47 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaHCO3 | 40 ml | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 20 ml | CC#N | C2H3N
solvent | water | 100 ml | O | H2O
product | 4-(N-Boc-amino)-1-cyclohexanol | 8.46 g, 91% yield | C(=O)(OC(C)(C)C)NC1CCC(CC1)O | C11H21NO3
